US05403852
8 g of phosphorus oxychloride are added with stirring to a solution of 7.5 g (RS)-1,2-bis(4-chlorophenyl)-2-(7-cyanooctanamido)ethanone in 35 cm3 of toluene, and the mixture is heated to 90° C. for 6 hours. After treatment, the product obtained is chromatographed on a column 2.8 cm in diameter containing 110 g of silica gel (50 to 200μ). The column is eluted with 0.6 liter of diisopropyl ether, collecting 50 cm3 fractions. The fractions emerging at between 0.15 liter and 0.6 liter are concentrated under reduced pressure (0.2 kPa). 6.6 g (91%) of (RS)-7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-methylheptanenitrile are obtained in the form of a yellowish oil, which is used directly in the subsequent reaction.

reactant | phosphorus oxychloride | 8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (RS)-1,2-bis(4-chlorophenyl)-2-(7-cyanooctanamido)ethanone | 7.5 g | ClC1=CC=C(C=C1)C(C(NC(CCCCCC(C)C#N)=O)C1=CC=C(C=C1)Cl)=O | C23H24Cl2N2O2
solvent | toluene | 35 cm3 | C1(=CC=CC=C1)C | C7H8
product | (RS)-7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-methylheptanenitrile | 6.6 g, 91% | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCC(C#N)C | C23H22Cl2N2O
